US09023840B2
Step 2: 4-(3-hydroxyazetidin-1-yl)benzoic acid
A mixture of 1-[4-(3-hydroxyazetidin-1-yl)phenyl]-2-methoxyethanone (1.33 g, 6.00 mmol) and lithium hydroxide monohydrate (504 mg, 12.0 mmol) in water (4 mL), methanol (3 mL) and THF (6 mL) was stirred at 40° C. overnight. The mixture was neutralized with 3 N HCl aqueous solution (˜4 mL) to pH about 7, extracted with ethyl acetate, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the crude product (1.10 g, 94.9%) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=194.1.

reactant | 1-[4-(3-hydroxyazetidin-1-yl)phenyl]-2-methoxyethanone | 6.00 mmol, 1.33 g | OC1CN(C1)C1=CC=C(C=C1)C(COC)=O | C12H15NO3
reactant | lithium hydroxide monohydrate | 12.0 mmol, 504 mg | O.[OH-].[Li+]
reactant | HCl | 3 N, ˜4 mL | Cl | ClH
solvent | water | 4 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(3-hydroxyazetidin-1-yl)benzoic acid | 1.10 g, 94.9% | OC1CN(C1)C1=CC=C(C(=O)O)C=C1 | C10H11NO3
